US08012541B2
Preparation of N-(5-uracil-yl)-4,4′-difluorobenzophenone imine (precusor of monomer structure XV where R5 is structure XVIA)
In a round bottom flask equipped with an overhead stirrer, 1.16 grams (0.009 mole) of 5-aminouracil was charged along with 6 grams (0.027 mole) of 4,4′-difluorobenzophenone and a N-methylpyrrolidone/N-cyclohexylpyrrolidone solvent mixture (50/50, 20 milliliters). The reaction mixture was then heated to 180° C. for 3 days. A charge of hexanes (100 milliliters) was added to fully induce precipitation, and the solid was isolated by filtration and twice recrystallized from isopropanol. The product was rinsed with isopropanol, suction dried, and vacuum dried in an oven overnight.

reactant | 5-aminouracil | 0.009 mole, 1.16 grams | NC=1C(NC(NC1)=O)=O | C4H5N3O2
reactant | 4,4′-difluorobenzophenone | 0.027 mole, 6 grams | FC1=CC=C(C(=O)C2=CC=C(C=C2)F)C=C1 | C13H8F2O
solvent | N-methylpyrrolidone N-cyclohexylpyrrolidone | CN1C(CCC1)=O.C1(CCCCC1)N1C(CCC1)=O
product | N-(5-uracil-yl)-4,4′-difluorobenzophenone imine | N1C(=O)NC(=O)C(=C1)N=C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C17H11F2N3O2
